US07220752B2
3,5-Dibromo-4-[5-isopropyl-2-(3-methylbenzoyl)-4-(3-methyl-3-butenyloxy)-phenoxy]phenylacetic acid (E1)
A solution of diethyl azodicarboxylate (42 mg, 0.24 mmol) in anhydrous CH2Cl2 (1 mL) was added over 15 min to an ice-cooled, stirred mixture of 3,5-dibromo-4-[4-hydroxy-5-isopropyl-2-(3-methylbenzoyl)phenoxy]phenylacetic acid methyl ester (70 mg, 0.12 mmol), PPh3 (63 mg, 0.24 mmol) and 3-methyl-3-buten-1-ol (24 μL, 0.24 mmol) in anhydrous CH2Cl2 (2 mL). The mixture was stirred at 0° C. for 12 h and 3 d at room temperature, and concentrated. The residue was dissolved in 30% NaOH/MeOH (2 mL) and heated at 40° C. for 12 h. The solution was allowed to cool, acidified with 1M HCl, concentrated and purified by HPLC to give the title compound. 1H NMR (CDCl3): δ 7.9–7.7 (m, 2H), 7.5 (s, 2H), 7.4–7.3 (m, 2H), 7.0(s, 1H), 6.3 (s, 1H), 4.8 (d, 2H), 4.1 (t, 2H), 3.6 (s, 2H), 3.3–3.2 (m, 1H), 2.5 (t, 2H), 2.4 (s, 3H), 1.8 (s, 3H), 1.1 (d, 6H). ESMS: m/z 629 (M−1).

reactant | diethyl azodicarboxylate | 0.24 mmol, 42 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3,5-dibromo-4-[4-hydroxy-5-isopropyl-2-(3-methylbenzoyl)phenoxy]phenylacetic acid methyl ester | 0.12 mmol, 70 mg | COC(CC1=CC(=C(C(=C1)Br)OC1=C(C=C(C(=C1)C(C)C)O)C(C1=CC(=CC=C1)C)=O)Br)=O | C26H24Br2O5
reactant | PPh3 | 0.24 mmol, 63 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3-methyl-3-buten-1-ol | 0.24 mmol, 24 μL | CC(CCO)=C | C5H10O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3,5-Dibromo-4-[5-isopropyl-2-(3-methylbenzoyl)-4-(3-methyl-3-butenyloxy)-phenoxy]phenylacetic acid | BrC=1C=C(C=C(C1OC1=C(C=C(C(=C1)C(C)C)OCCC(=C)C)C(C1=CC(=CC=C1)C)=O)Br)CC(=O)O | C30H30Br2O5
